// Generated for: spectre
// Generated on: Jul  3 11:36:50 2025
// Design library name: RSPCHBCell045
// Design cell name: testing
// Design view name: schematic
simulator lang=spectre
global 0
include "/home/yongfu/research-freepdk-library/Cadence45/TECH/GPDK045/gpdk045_v_6_0/gpdk045/../models/spectre/gpdk045.scs" section=mc

// Library name: gsclib045u
// Cell name: INVX1
// View name: schematic
subckt gsclib045u_INVX1_schematic A Y inh_VDD inh_VSS
    mp0 (Y A inh_VDD inh_VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f \
        ad=54.6f ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n \
        sb=140n sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
    mn0 (Y A inh_VSS inh_VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f \
        ad=36.4f ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n \
        sd=160n sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
ends gsclib045u_INVX1_schematic
// End of subcircuit definition.

// Library name: gsclib045u
// Cell name: CELEMENTX1
// View name: schematic
subckt CELEMENTX1 A B C VDD VSS
    I1 (C net1 VDD VSS) gsclib045u_INVX1_schematic
    I0 (net1 C VDD VSS) gsclib045u_INVX1_schematic
    NM0 (net09 A VSS VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    mn0 (net1 B net09 VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    PM0 (net012 A VDD VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f ad=54.6f \
        ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n \
        sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
    mp0 (net1 B net012 VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f ad=54.6f \
        ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n \
        sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
ends CELEMENTX1
// End of subcircuit definition.

// Library name: gsclib045u
// Cell name: AND2X1
// View name: schematic
subckt AND2X1 A B Y inh_VDD inh_VSS
    mn2 (Y n0 inh_VSS inh_VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f \
        ad=36.4f ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n \
        sd=160n sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    mn0 (net127 B inh_VSS inh_VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f \
        ad=36.4f ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n \
        sd=160n sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    mn1 (n0 A net127 inh_VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f \
        ad=36.4f ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n \
        sd=160n sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    mp1 (n0 B inh_VDD inh_VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f \
        ad=54.6f ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n \
        sb=140n sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
    mp0 (n0 A inh_VDD inh_VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f \
        ad=54.6f ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n \
        sb=140n sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
    mp2 (Y n0 inh_VDD inh_VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f \
        ad=54.6f ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n \
        sb=140n sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
ends AND2X1
// End of subcircuit definition.

// Library name: RSPCHBCell045
// Cell name: BUFFX1
// View name: schematic
subckt RBUFFX1 VDD VSS a0 a1 c0 c1 in_ack in_req \
        out_ack out_req
    I3 (in_req nc01 out_ack VDD VSS) CELEMENTX1
    NM4 (c0n a0 net020 VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    NM3 (net020 in_ack VSS VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f \
        ad=36.4f ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n \
        sd=160n sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    NM0 (c1n a1 net07 VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    mn1 (net07 in_ack VSS VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f \
        ad=36.4f ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n \
        sd=160n sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    PM1 (c0n in_ack VDD VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f \
        ad=54.6f ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n \
        sb=140n sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
    mp1 (c1n in_ack VDD VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f \
        ad=54.6f ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n \
        sb=140n sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
    I7 (out_ack out_req VDD VSS) gsclib045u_INVX1_schematic
    I5 (c0n c0 VDD VSS) gsclib045u_INVX1_schematic
    I4 (c1n c1 VDD VSS) gsclib045u_INVX1_schematic
    I6 (c1n c0n nc01 VDD VSS) AND2X1
ends RBUFFX1
// End of subcircuit definition.


// Library name: RSPCHBCell045
// Cell name: tb_RBUFFX1
// View name: schematic
I5 (VDD VSS a0 a1 c0 c1 in_ack in_req out_ack out_req) RBUFFX1
V5 (VSS 0) vsource dc=0 type=dc
V1 (VDD VSS) vsource dc=vdd type=dc
V8 (in_req VSS) vsource type=pulse val0=0 val1=1.2 period=100n delay=20n \
        rise=100.0p fall=100.0p
V4 (a1 VSS) vsource dc=0 type=pulse val0=1.2 val1=0 period=100n delay=10n \
        rise=100.0p fall=100.0p
V3 (in_ack VSS) vsource type=pulse val0=0 val1=1.2 period=100n delay=30n \
        rise=100.0p fall=100.0p
V0 (a0 VSS) vsource dc=0 type=pulse val0=0 val1=1.2 period=100n delay=10n \
        rise=100.0p fall=100.0p
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=200n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub